US04118583
6.1.2. 1-(2-p-chlorophenoxy-2-methylpropionyloxy)-2-(salicyloxy)-ethane
50 g (0.18 mole) of 1-(2-p-chlorophenoxy-2-methylpropionyloxy)-2-chloro-ethane are mixed with 43.3 g (0.27 mole) of sodium salicylate. The mixture is heated to 195° for 8 hours. The products are taken up in ether, and NaCl is removed by filtration. The diester crystallizes quantitatively from the ether solution.

reactant | 1-(2-p-chlorophenoxy-2-methylpropionyloxy)-2-chloro-ethane | 0.18 mole, 50 g | ClC1=CC=C(OC(C(=O)OCCCl)(C)C)C=C1 | C12H14Cl2O3
reactant | sodium salicylate | 0.27 mole, 43.3 g | C(C=1C(O)=CC=CC1)(=O)[O-].[Na+]
solvent | ether | CCOCC | C4H10O
product | 1-(2-p-chlorophenoxy-2-methylpropionyloxy)-2-(salicyloxy)-ethane | ClC1=CC=C(OC(C(=O)OCCOCC=2C(O)=CC=CC2)(C)C)C=C1 | C19H21ClO5
